US08614206B2
To a solution of benzyl 4-oxoazepane-1-carboxylate (2.0 g, 8.09 mmol) in diethyl ether (18 mL) cooled to −78° C. was added dropwise a solution of methyllithium lithium bromide complex (1.5 M in Et2O, 10.8 mL, 16.17 mmol). The reaction mixture was stirred at −78° C. for 30 min before being quenched with a saturated solution of ammonium chloride (50 mL). The reaction was allowed to warm to room temperature and extracted with EtOAc (3×50 mL). The combined organic layers were dried over MgSO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-50% EtOAc/isohexane) gave benzyl 4-hydroxy-4-methylazepane-1-carboxylate as a light yellow oil (1.94 g). A solution of this oil (884 mg, 3.36 mmol) in MeOH (10 mL) was passed through the H-Cube® (full H2, 50° C., flow rate: 1 mL/min, 30 mm 10% Pd/C cartridge) and the solvent removed under reduced pressure. The residue was dissolved in DMSO (10 mL) and 5-chloro-1-methyl-4-nitro-1H-pyrazole (521 mg, 3.23 mmol) and potassium fluoride (750 mg, 12.91 mmol) were added. The reaction mixture was heated at 75° C. for 16 hr before being quenched with water (30 mL). The mixture was extracted with EtOAc (3×30 mL) and the combined organic layers were washed with water (20 mL), separated, dried over MgSO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 4-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ol as a yellow oil (290 mg). To a solution of this oil (260 mg, 1.04 mmol) and chloroacetonitrile (139 mL, 2.09 mmol) in acetic acid (1.0 mL) at 0° C. was added dropwise concentrated sulphuric acid (308 mL, 3.15 mmol). The reaction mixture was allowed to warm to room temperature and stirred for an additional 2 hr before being quenched with aqueous 2 M NaOH (10 mL) and extracted with EtOAc (3×10 mL). The combined organic layers were separated, dried over MgSO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-50% EtOAc/isohexane) gave 2-chloro-N-(4-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)acetamide as a yellow oil (264 mg). To a solution of this oil (264 mg, 0.80 mmol) in ethanol (1.4 mL) and acetic acid (0.6 mL) was added thiourea (73 mg, 0.96 mmol). The reaction mixture was heated at reflux for 16 hr, quenched with 1M NaOH solution (5 mL) and extracted with EtOAc (10 mL). The organic layer was separated, dried over MgSO4 and the solvent removed under reduced pressure. The residue was passed through an SCX column eluting with 1M NH3 in MeOH to give 4-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-amine as a gum (172 mg). To a solution of this gum (166 mg, 0.65 mmol) in DCM (5 mL) was added DIPEA (0.57 mL, 3.27 mmol) followed by di-tert-butyl dicarbonate (171 mg, 0.78 mmol). The reaction mixture was left stirring at room temperature for 16 hr, quenched with water (10 mL) and extracted with DCM (3×10 mL). The combined organic layers were passed through a phase separator and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave tert-butyl 4-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate as a yellow oil (188 mg, 14% over six steps). 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 4.53 (s, 1H), 3.78 (s, 3H), 3.38-3.28 (m, 1H), 3.28-3.16 (m, 2H), 3.11-3.03 (m, 1H), 2.28-2.12 (m, 2H), 1.90-1.69 (m, 4H), 1.44 (d, J=7.2 Hz, 12H).

reactant | benzyl 4-oxoazepane-1-carboxylate | 8.09 mmol, 2.0 g | O=C1CCN(CCC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
reactant | methyllithium lithium bromide | 16.17 mmol, 1.5 M, 10.8 mL | [Br-].[Li+].C[Li]
solvent | diethyl ether | 18 mL | C(C)OCC | C4H10O
product | benzyl 4-hydroxy-4-methylazepane-1-carboxylate | 1.94 g | OC1(CCN(CCC1)C(=O)OCC1=CC=CC=C1)C | C15H21NO3
